US09056843B2
Intermediate 3c: [4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-acetic acid methyl ester
[4-(N-hydroxycarbamimidoyl)-phenyl]-acetic acid methyl ester (1.2 g, 5.76 mmol) was dissolved in THF (24.01 mL) and cooled to 0° C. Trifluoroacetic anhydride (0.977 mL, 6.92 mmol) was added in one go and the mixture was stirred at 0° C. for 30 min, then cooling was removed and stirring continued for 21.5 h.

reactant | [4-(N-hydroxycarbamimidoyl)-phenyl]-acetic acid methyl ester | 5.76 mmol, 1.2 g | COC(CC1=CC=C(C=C1)C(NO)=N)=O | C10H12N2O3
reactant | Trifluoroacetic anhydride | 6.92 mmol, 0.977 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 24.01 mL | C1CCOC1 | C4H8O
product | [4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F)=O | C12H9F3N2O3
